US04572912
2-(6-Benzyloxy-2,5,7,8-tetramethylchroman-2-yl)ethanol
Following the procedure described in Preparation 1, 2-(6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)ethanol was reacted with benzyl bromide and treated and purified to give the title compound.

reactant | 2-(6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)ethanol | OC=1C(=C2CCC(OC2=C(C1C)C)(C)CCO)C | C15H22O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-(6-Benzyloxy-2,5,7,8-tetramethylchroman-2-yl)ethanol | C(C1=CC=CC=C1)OC=1C(=C2CCC(OC2=C(C1C)C)(C)CCO)C | C22H28O3
